US07223791B2
A mixture of methyl 4-[3-(4-chlorophenyl)-1,2,4-oxadiazol-5-yl]-3-nitrobenzoate (1.20 g), 1 M aqueous sodium hydroxide solution (6.6 ml) and tetrahydrofuran (10 ml) was heated under reflux for 30 min. After cooling, the reaction mixture was poured into water, and 1 M hydrochloric acid was added to acidify the mixture. The crystals were collected by filtration to give 4-[3-(4-chlorophenyl)-1,2,4-oxadiazol-5-yl]-3-nitrobenzoic acid (1.10 g, yield 96%). Recrystallization from hexane-tetrahydrofuran gave colorless prism crystals. melting point: 257–258° C.

reactant | methyl 4-[3-(4-chlorophenyl)-1,2,4-oxadiazol-5-yl]-3-nitrobenzoate | 1.20 g | ClC1=CC=C(C=C1)C1=NOC(=N1)C1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C16H10ClN3O5
reactant | sodium hydroxide | 1 M, 6.6 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | water | O | H2O
product | 4-[3-(4-chlorophenyl)-1,2,4-oxadiazol-5-yl]-3-nitrobenzoic acid | 1.10 g, yield 96% | ClC1=CC=C(C=C1)C1=NOC(=N1)C1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C15H8ClN3O5
